US08975282B2
Step 3) 4-amino-5-chloro-2-fluorophenol
To a solution of potassium 5-chloro-2-fluoro-4-nitrophenolate (1.0 g, 4.35 mmol, Yuxiang) in 95% EtOH (22 mL) and H2O (8 mL) was added Fe (0.97 g, 17.4 mmol) and NH4Cl (1.86 g, 34.8 mmol). The mixture was stirred at rt for 10 hours, then diluted with methanol (100 mL) and ethyl acetate (100 mL). Filtered and the filtrate was concentrated in vacuo. The residue was dissolved in water (50 mL) and ethyl acetate (50 mL). The organic phase was separated and the water phase was extracted with ethyl acetate (50 mL×2). The combined organic layers were washed with brine (50 mL×3), dried over anhydrous Na2SO4, and concentrated in vacuo to give the title compound as a pale solid (0.6 g, 85.3%).

reactant | potassium 5-chloro-2-fluoro-4-nitrophenolate | 4.35 mmol, 1.0 g | ClC=1C(=CC(=C(C1)[O-])F)[N+](=O)[O-].[K+]
reactant | NH4Cl | 34.8 mmol, 1.86 g | [NH4+].[Cl-]
solvent | EtOH | 22 mL | CCO | C2H6O
solvent | H2O | 8 mL | O | H2O
solvent | methanol | 100 mL | CO | CH4O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Fe | 17.4 mmol, 0.97 g | [Fe] | Fe
product | 4-amino-5-chloro-2-fluorophenol | 0.6 g, 85.3% | NC1=CC(=C(C=C1Cl)O)F | C6H5ClFNO
